US07005432B2
3-(3-Chloro-4-fluoro-phenyl)-5-methoxy-pyridazine (365 mg, 1.53 mmol) in aqueous HBr (48%, 3.6 ml) was heated at 100° C. for 19 hours under argon. The solvent was removed in vacuo and the resulting solid was dissolved in MeOH. The turbid solution was filtered though decalite and the filtrate was concentrated. The crude solid was stirred in MeCl2, filtered and dried to provide 6-(3-chloro-4-fluoro-phenyl)-pyridazin-4-ol hydrobromide (375 mg, 80%) as a beige solid, MS: m/e=225.1 (M+H+).

reactant | 3-(3-Chloro-4-fluoro-phenyl)-5-methoxy-pyridazine | 1.53 mmol, 365 mg | ClC=1C=C(C=CC1F)C=1N=NC=C(C1)OC | C11H8ClFN2O
reactant | HBr | 3.6 ml | Br | BrH
product | 6-(3-chloro-4-fluoro-phenyl)-pyridazin-4-ol hydrobromide | 375 mg, 80% | Br.ClC=1C=C(C=CC1F)C1=CC(=CN=N1)O | InChI=1S/C10H6ClFN2O.BrH/c11-8-3-6(1-2-9(8)12)10-4-7(15)5-13-14-10;/h1-5H,(H,14,15);1H
